US09359300B2
Step B: Preparation of 2′-chloro-4-((4-methoxybenzyl)oxy)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one
To a solution of 2′-chloro-4-hydroxy-6,5′-dimethyl-[1,4′]bipyridinyl-2-one of part A (1.5 g, 6.0 mmol) in N,N-dimethylformamide (10 mL) was added 4-methoxybenzylbromide (1.33 g, 6.6 mmol), potassium carbonate (2.1 g, 15.1 mmol) and 18-crown-6 (40 mg). The slurry was stirred at ambient temperature for 18 hours. The reaction was partitioned between ethyl acetate and water. The organic layer was washed with water and brine and dried over magnesium sulfate. The solution was concentrated in vacuo to provide a brown oil. Normal phase chromatography (ethyl acetate/heptane) provided the alkylated product (1.37 g): MS (M+H) 372.

reactant | 2′-chloro-4-hydroxy-6,5′-dimethyl-[1,4′]bipyridinyl-2-one | ClC1=NC=C(C(=C1)N1C(C=C(C=C1C)O)=O)C | C12H11ClN2O2
reactant | 4-methoxybenzylbromide | 6.6 mmol, 1.33 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | potassium carbonate | 15.1 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | 18-crown-6 | 40 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 2′-chloro-4-((4-methoxybenzyl)oxy)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one | 1.37 g | ClC1=NC=C(C(=C1)N1C(C=C(C=C1C)OCC1=CC=C(C=C1)OC)=O)C | C20H19ClN2O3
